US07163947B2
A solution of N1-(3-Aminopropyl)-2-ethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.89 g, 3.1 mmol) in 30 mL of CH2Cl2 was placed under an atmosphere of nitrogen. The solution was treated first with triethylamine (0.92 mL, 6.6 mmol) and then slowly with acetyl chloride (0.234 mL, 3.29 mmol). After 16 h, another equivalent of acetyl chloride was added. After 3 h, the reaction was concentrated under reduced pressure to yield an orange oil. The oil was then treated with 20 mL of 1 M HCl in MeOH and stirred at ambient temperature to hydrolyze any bis-amide. After 16 h, the reaction was quenched with 25 mL of 10% Na2CO3 solution. The mixture was concentrated under reduced pressure to remove MeOH. The aqueous oily suspension was treated with 75 mL of 95:5 CHCl3:MeOH, transferred to a separatory funnel and separated. The organic portion was washed with brine (25 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a yellow foam. The foam was purified by chromatography (40 g SiO2, 25% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield a light yellow solid. The solid was recrystallized from MeCN to give N-{3-[(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}acetamide (0.67 g) as yellow crystals. mp 167–169° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.42 (d, J=8.1 Hz, 1H), 7.85 (t, J=5.2 Hz, 1H), 7.59 (d, J=8.3 Hz, 1H), 7.44–7.38 (m, 1H), 7.25–7.20 (m, 1H), 6.96 (t, J=5.3 Hz, 1H), 6.51 (s, 2H), 3.19–3.08 (m, 4H), 2.97 (q, J=7.4 Hz, 2H), 1.78 (s, 3H), 1.69 (p, J=7.0 Hz, 2H), 1.38 (t, J=7.5 Hz, 3H); 13C NMR (125 MHz, DMSO-d6) δ 169.5, 154.9, 152.0, 144.9, 132.1, 126.9, 126.1, 124.2, 121.1, 121.0, 114.9, 49.7, 36.8, 28.0, 23.0, 19.5, 12.4; MS (ESI) m/z 327 (M+H)+; Anal. Calcd for C17H22N6O: C, 62.56; H, 6.79; N, 25.75; Found: C, 62.40; H, 7.06; N, 25.82.

reactant | N1-(3-Aminopropyl)-2-ethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 3.1 mmol, 0.89 g | NCCCNN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C15H20N6
reactant | triethylamine | 6.6 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.29 mmol, 0.234 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1 M, 20 mL | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-{3-[(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}acetamide | 0.67 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(C)=O)CC | C17H22N6O
